US05445762
4, 16-Bis(2,2-dimethylbutyroyl)-1,7,10,13,19-pentaoxa-4,16-diazacycloheneicosane
Analogously to Example 2 from 1,7,10,13,19-pentaoxa-4,16-diazacycloheneicosane and 2,2-dimethylbutyryl chloride. Example 30

reactant | 1,7,10,13,19-pentaoxa-4,16-diazacycloheneicosane | O1CCNCCOCCOCCOCCNCCOCC1 | C14H30N2O5
reactant | 2,2-dimethylbutyryl chloride | CC(C(=O)Cl)(CC)C | C6H11ClO
product | 4, 16-Bis(2,2-dimethylbutyroyl)-1,7,10,13,19-pentaoxa-4,16-diazacycloheneicosane | CC(C(=O)N1CCOCCOCCN(CCOCCOCCOCC1)C(C(CC)(C)C)=O)(CC)C | C26H50N2O7
